US06255333B1
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3-hydroxyprop-1-ynyl)pyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (200 mg, the compound of Example A1) in triethylamine (2 ml) and dimethylformamide (1 ml) at room temperature was added propargyl alcohol (0.2 ml), cuprous iodide (10 mg) and bis(triphenylphosphine)palladium(II) chloride (20 mg). The reaction mixture was heated at 70° C. for two hours. The reaction mixture was partitioned between ether (10 ml) and water (10 ml). The organic layer was separated, washed with brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel eluted with ether:dichloromethane (10:1) to provide the title compound as a pale yellow solid m.p. 237-9° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | propargyl alcohol | 0.2 ml | C(C#C)O | C3H4O
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3-hydroxyprop-1-ynyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#CCO | C14H7Cl2F3N4O
